US07399759B2
tert-Butyl 2-(2-cyano-4-pyridyl)ethylcarbamate
tert-Butyl 2-(4-pyridyl)ethylcarbamate N-oxide (7.4 g, 31 mmol) was dissolved in nitroethane (100 ml), and trimethylsilyl cyanide (9.2 g, 92 mmol) and N,N-dimethylcarbamoyl chloride (6.7 g, 62 mmol) were added thereto. The mixture was stirred at room temperature for 10 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (1:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (6.6 g, 86%)

reactant | tert-Butyl 2-(4-pyridyl)ethylcarbamate N-oxide | 31 mmol, 7.4 g | N1=CC=C(C=C1)CC[NH+](C(OC(C)(C)C)=O)[O-] | C12H18N2O3
reactant | trimethylsilyl cyanide | 92 mmol, 9.2 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 62 mmol, 6.7 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 100 ml | [N+](=O)([O-])CC | C2H5NO2
product | tert-Butyl 2-(2-cyano-4-pyridyl)ethylcarbamate | 6.6 g, 86% | C(#N)C1=NC=CC(=C1)CCNC(OC(C)(C)C)=O | C13H17N3O2
